US04272550
To 2,6-dimethyl-4-(hexafluoro-2-hydroxy-2-propyl)phenol (12.0 g=42 mmol) in 150 ml acetonitrile add chloroacetonitrile (3.8 g=50 mmol) and potassium carbonate (11.5 g=83 mmol). Reflux 6 hours, add more chloroacetonitrile (0.8 g=10 mmol), reflux 1/2 hour, and allow to cool. Filter, concentrate and partition between ether and water. Dry and concentrate the ether. Partition between 1:9 ether-hexane and 1.0 N NaOH. Acidify the aqueous layer with concentrated HCl and extract with ether. Dry and concentrate the combined ether extracts to leave a residue comprising 2-[4-(hexafluoro-2-hydroxy-2-propyl)-2,6-dimethylphenoxy]acetonitrile, together with some of the corresponding acetamide.

reactant | 2,6-dimethyl-4-(hexafluoro-2-hydroxy-2-propyl)phenol | 42 mmol, 12.0 g | CC1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)O)C)O | C11H10F6O2
reactant | chloroacetonitrile | 50 mmol, 3.8 g | ClCC#N | C2H2ClN
reactant | potassium carbonate | 83 mmol, 11.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetonitrile | 10 mmol, 0.8 g | ClCC#N | C2H2ClN
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 2-[4-(hexafluoro-2-hydroxy-2-propyl)-2,6-dimethylphenoxy]acetonitrile | FC(C(C(F)(F)F)(O)C1=CC(=C(OCC#N)C(=C1)C)C)(F)F | C13H11F6NO2
